* C:\Users\Dave\Documents\GitHub\myStateOfCharge\SOC_Photon\datasheets\GP_battery.asc
I 0 Vb PULSE(0 30 1 0.001 0 200 400)
Rct Vb Vc {Rct}
Rdif Vc Vd {Rdif}
R0 Vd Vocv {R0}
Cct Vb Vc {Cct}
Cdif Vc Vd {Cdif}
Vocv Vocv 0 13.5
.param Cct=2300  Rct=0.0016  Cdif=10820  Rdif=0.0077  R0=0.003
.tran 0 1 0 0.01
.backanno
.end
